US04537891
5-Bromo-2-(4-aminobutyl)-3-methylpyridine, (0.88 g) and 5-(4-fluorobenzyl)-2-methylthio-4-pyrimidone (0.75 g) were refluxed in pyridine (3 ml) for 24 hours. The pyridine was removed in vacuo and the residue triturated with ethanol (5 ml) giving a colourless solid. The solid was recrystallised from methanol giving 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(4-fluorobenzyl)-4-pyrimidone (0.96 g) m.p. 172°-3° C.

reactant | 5-Bromo-2-(4-aminobutyl)-3-methylpyridine | 0.88 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 5-(4-fluorobenzyl)-2-methylthio-4-pyrimidone | 0.75 g | FC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11FN2OS
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(4-fluorobenzyl)-4-pyrimidone | 0.96 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)F)C | C21H22BrFN4O
